* NGSPICE file created from lsi1v8o5v0.ext - technology: sky130A

.subckt lsi1v8o5v0 in out_b out vdd_l vdd_h vss
X0 vdd_l in in_b vdd_l sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X1 vss t1 out vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X2 out_b out vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X3 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=1.305 ps=14.22 w=0.5 l=0.5
X4 vdd_h out out_b vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X5 out_b out vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X6 vss in in_b vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X7 vdd_h out out_b vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X8 in_bb in_b vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X9 vdd_h t1 out vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X10 out t1 vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X11 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0 ps=0 w=0.5 l=0.5
X12 vdd_h t1 out vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X13 in_bb in_b vdd_l vdd_l sky130_fd_pr__pfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X14 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0 ps=0 w=0.5 l=0.5
X15 out t1 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X16 t1 in_bb vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X17 vdd_h t1 t2 vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X18 out t1 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X19 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0 ps=0 w=0.5 l=0.5
X20 t1 t2 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X21 out_b out vss vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X22 vss in_b t2 vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X23 vss out out_b vss sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
.ends

