* NGSPICE file created from fgcell_amp_MOS_cap_thick_poly_2_cx.ext - technology: sky130A

.subckt fgcell_amp_MOS_cap_thick_poly_2_cx vfg vctrl vdd row_en_b vsrc vtun VGND vout
+ row_en vb
X0 a_2707_n5380# vfg vsrc vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=0.5
X1 x2.int4 x2.int4 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X2 x2.v2 row_en vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X3 vdd x2.int4 x2.v2 vdd sky130_fd_pr__pfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X4 vinj row_en_b a_2707_n5380# vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=0.5
X5 x2.v2 row_en vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X6 x2.v2 row_en_b vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X7 vout row_en x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X8 vout row_en x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X9 x2.int4 vfg x2.int1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X10 x2.v2 row_en_b vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X11 x2.v2 row_en vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X12 vout row_en_b x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X13 x2.int1 x2.v2 x2.int3 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X14 vfg vtun VGND sky130_fd_pr__cap_var w=1 l=0.5
X15 vout row_en_b x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X16 vout row_en x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X17 vout row_en x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X18 x2.int2 x2.int2 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X19 x2.v2 row_en_b vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X20 x2.v2 row_en vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X21 vout row_en_b x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X22 vout row_en_b x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X23 VGND x2.int2 x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X24 x2.v2 row_en_b vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X25 vctrl vfg vctrl vctrl sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.58 ps=5.16 w=1 l=0.5
X26 x2.int2 x2.int3 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X27 x2.int1 vb x2.int5 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X28 vdd x2.int3 x2.int3 vdd sky130_fd_pr__pfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X29 x2.int5 vb VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
C0 vdd x2.int3 1.82136f
C1 row_en_b x2.v2 0.97743f
C2 row_en vout 0.94621f
C3 vdd x2.int4 0.5854f
C4 x2.v2 x2.int3 0.93721f
C5 row_en_b vinj 2.32518f
C6 x2.int2 x2.int4 0.74292f
C7 vout x2.v2 0.98693f
C8 vfg vinj 1.31097f
C9 row_en VGND 2.17951f
C10 vb VGND 0.86883f
C11 vfg VGND 4.30907f
C12 row_en_b VGND 0.90082f
C13 vdd VGND 4.74271f
C14 vctrl VGND 1.79834f
C15 vtun VGND 1.78522f
C16 vinj VGND 5.45545f
C17 x2.v2 VGND 2.18482f
C18 x2.int3 VGND 1.74046f
C19 x2.int4 VGND 0.95437f
C20 x2.int2 VGND 1.37712f
.ends

